US06008230
To a stirred mixture of 4-hydroxy-8-nitroquinoline (5.0 g), 2,6-lutidine (4.23 g) and dimethylaminopyridine (321 mg) was dropwise added a solution of trifluoromethanesulfonic anhydride (8.16 g) in dichloromethane (100 ml) over the period of 30 minutes under ice-cooling, and the mixture was stirred for 2 hours at the same temperature and for 1 hour at ambient temperature. To the mixture was added saturated ammonium chloride solution and extracted with dichloromethane. The organic layer was washed with water and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash chromatography (dichloromethane-n-hexane) to give 8-nitro-4-(trifluoromethanesulfonyloxy)quinoline (6.17 g).

reactant | 4-hydroxy-8-nitroquinoline | 5.0 g | OC1=CC=NC2=C(C=CC=C12)[N+](=O)[O-] | C9H6N2O3
reactant | 2,6-lutidine | 4.23 g | N1=C(C=CC=C1C)C | C7H9N
reactant | dimethylaminopyridine | 321 mg | CN(C)C1=NC=CC=C1 | C7H10N2
reactant | trifluoromethanesulfonic anhydride | 8.16 g | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 8-nitro-4-(trifluoromethanesulfonyloxy)quinoline | 6.17 g | [N+](=O)([O-])C=1C=CC=C2C(=CC=NC12)OS(=O)(=O)C(F)(F)F | C10H5F3N2O5S
